* einseitige Stromquelle (andere Seite nach Masse)
*
.subckt Idc_single 1
i1 1 0 dc={I} 
R1 1 0 R={Rpar} 
.param I=1A 
.param Rpar={1/Gmin}
.ends


* negative einseitige Stromquelle (andere Seite nach Masse)
*
.subckt Idc_single_neg 1
i1 1 0 dc={I} 
R1 1 0 R={Rpar} 
.param I=1A 
.param Rpar={1/Gmin}
.ends

