.SUBCKT jumperResistorNoCfg    1 2 
R1 1 0 1t
R2 1 2 1u
R3 2 0 1t
.ends

.SUBCKT jumperResistor    1 2 
R1 1 0 {Rin}
R2 1 2 {Rj}
R3 2 0 {Rout}
.ends

.SUBCKT jumperResistorNC    1 2 
R1 1 0 {Rin}
R2 1 2 {(1-CLOSED)*100t+1u}
R3 2 0 {Rout}
.ends

.SUBCKT jumperResistorNO    1 2 
R1 1 0 {Rin}
R2 1 2 {OPEN*R_OPEN+R_CLOSED}
R3 2 0 {Rout}
.ends
