**********************************************
* Negative resistance 
* I/V plot of resistor: 1st + 3rd quadrant
* I/V plot of neg. R: 2st + 4rd quadrant
* 14-12-2012 MDB
**********************************************
.subckt negRes 1 2
E1 N1 2 1 N1 {R/Rs-1}
R1 1 N1 {Rs}
.ends

