* Z:\home\mainster\CODES_local\LTSpice_projects\PositionDemodulator_CamTech.asc
Ia N002 0 SINE(0 550u 1.5meg)
Ib N006 0 SINE(0 575u 1.5meg)
C1 N002 0 470p
R2 Va N001 16.9k
R3 N001 N002 453
R4 Vb N005 16.9k
R5 N005 N006 453
R6 N003 Va 2k
R7 N004 Vb 2k
R8 Vpos N003 4.53k
R9 0 N004 4.53k
C2 Va N001 330p
C3 0 N006 470p
C4 N005 Vb 330p
C5 N003 Vpos 1.2n
C6 N004 0 1.2n
C7 N009 N008 10n
XU3 0 N001 Vp Vm Va LT1013
V1 Vp 0 15
V2 Vm 0 -15
XU1 0 N005 Vp Vm Vb LT1013
XU2 N004 N003 Vp Vm Vpos LT1013
XU5 0 N008 Vp Vm N009 LT1013
R10 Vp10 N011 {(1-R13set)*R13}
R11 N011 Vm10 {R13set*R13}
R12 N008 N011 49.9k
R13 Va N008 10k
R14 N007 N008 200k
R15 Vb N007 {(1-R77set)*R77}
R16 N007 Va {R77set*R77}
R17 Vb N008 10k
R18 N008 Vm10 5.49k
D1 N008 N009 1N4148
Q1 Vp N009 N010 0 2N5769
R19 N010 AGC_out 10
V3 Vp10 0 10
V4 Vm10 0 -10
R20 N010 N009 150
.model D D
.lib C:\Program Files (x86)\LTC_orig\LTspiceIV_4.18\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC_orig\LTspiceIV_4.18\lib\cmp\standard.bjt
.param R13=20k
.param R13set=0.9
.param R77=10k
.param R77set=0.5
.tran 1 uic
.lib LTC.lib
.backanno
.end
