* E:\data_raid_back\mainster\DATAPOOL\TRANSFER\CODES\LTSpice_projects\Push_pull_convetrer.asc
V1 N006 0 12V Rser=10m
V2 N002 0 PULSE(0 12 0 50n 50n 1u 10u)
V3 N008 0 PULSE(0 12 1.05u 50n 50n 1u 10u)
L1 N001 N006 70µ Rser=1m
L2 0 N004 1m Rser=1m
L3 N006 N007 70µ Rser=1m
M1 N007 N009 0 0 IRFH6200
M2 N001 N003 0 0 IRFH6200
R1 N003 N002 2
R2 N009 N008 2
D1 N004 N005 MURS320
C1 N005 0 100µ
L4 0 N010 1m Rser=10000k
D2 N010 N005 MURS320
R3 N005 0 1
.model D D
.lib C:\Programme\LTC\LTspiceIV\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Programme\LTC\LTspiceIV\lib\cmp\standard.mos
K L1 L2 L3 L4 .995
.tran 5m
.backanno
.end
