* Z:\media\raid0\data_raid_back\mainster\DATAPOOL\TRANSFER\CODES\LTSpice_projects\buckconverter_injection_filter.asc
XU1 N005 N002 vp 0 N002 LM258_ON
V1 vp 0 10V
V2 N004 0 PULSE(0 5 0 1n 1n 2m 5m)
R2 N005 N001 100k
C1 N005 0 1µ
C2 N002 N001 10n
R1 N003 N002 14.7k
C3 N003 0 1µ
XU2 N003 adv vp 0 adv LM258_ON
R3 N009 N004 10k
C4 N009 0 100n
XU3 N009 N007 vp 0 N007 LM258_ON
R4 N001 N004 100k
R5 N008 N007 10k
C5 N008 0 100n
XU4 N008 N006 vp 0 N006 LM258_ON
*****
* (c) ON SEMICONDUCTOR
* Models developed and under copyright by:
* ON SEMICONDUCTOR 
 
* ============================================================
* | Legal Notice: This material is intended for free  
* | software support. The file may be copied and distributed. 
* | However,reselling the material is illegal.
* ============================================================
 
* ============================================================      
* | LM258, LM358, LM358A, LM2904, LM2904A, LM2904V, NCV2904
* |                  OP-AMP MACRO-MODEL
* |            Designed in pSpice Version 9.2
* |
* | The content of this model is subject to change
* | without notice and may not be modified or altered
* | without permission from ON Semiconductor. This model
* | has been carefully checked and is believed to be
* | accurate, however ON Semiconductor does not assume 
* | liability for the use of this model or the results 
* | obtained from using it.
* ============================================================
 
* ============================================================
* Features: - True Differential Input Stage
*           - Single Supply Operation: 3.0 V to 32 V
*           - Low Input Bias Currents
*           - Internally Compensated
*           - Common Mode Range Extends to Negative Supply
*           - Single and Split Supply Operation
* ============================================================
 
* $Author: Vallabh Chilakapati $
* $Date: 6 Aug 2006 $
 
* NOTE: - Noise is not modeled.
*       - Temperature is not modeled.
*       - PSR is not modeled.
*       - Model is for single device only.  Simulated supply current is 1/2 of
*         total package current.
 
* Connections:
*                   Non-Inverting Input
*                   |   Inverting Input
*                   |   |   +ve Voltage Supply
*                   |   |  |   -ve Voltage Supply
*                   |   |  |   |   Output
*                   |   |  |   |   |
.SUBCKT LM258_ON    1   2  11  12  24
 
***** Input Stage *****
Q_Q1            4 5 6           QPNP1    
Q_Q2            7 8 9           QPNP2
I_I1            111 10          DC 1m
R_RC1           4 12            95.49 
R_RC2           7 12            95.49
R_RE1           10 6            43.79 
R_RE2           10 9            43.79
V_Vio           2 8             0Vdc
E_E4            1 5 16 14       1
E_EVcc          111 0 11 0      1
G_Vcc           0 11            poly(1)         11 0            0.556m 4.8u
 
***** Gain Stage & Frequency Response Stage *****
R_R3            13 12           1k  
R_R4            111 13          100k  
E_Eref          14 0 13 0       1
G_G1            14 15 7 4       0.01047
R_Rc            14 15           9.549Meg 
C_Cc            14 15           1.667n 
 
***** Output Stage *****
E_E1            22 14 15 14     1
V_F1            23 24           0
F_F1            11 0 V_F1       1
R_Rout          22 23           13
 
***** Common Mode Rejection *****
R_R1            3 1             1Meg
R_R2            2 3             1Meg
G_G2            14 16 3 14      5.6234n
R_Rcmr          17 16           10k
L_Lcmr          14 17           1.59H 
 
***** Output Voltage Limiting *****
D_D1            15 18           D10D1
D_D2            19 15           D10D1 
V_Voh           111 18          2.183
V_Vol           19 12           0.639
 
***** Output Current Limiting *****
D_D3            15 21           D10D1 
D_D4            20 15           D10D1 
V_V3            21 23           -0.207
V_V4            23 20           -0.467
 
.model QPNP1    PNP(Bf=10841.7)
.model QPNP2    PNP(Bf=11741.7)
.MODEL D10D1 D IS=6E-16 RS=1.000E-3 VJ=.75 BV=100E6
.ENDS
.tran 2000m
.backanno
.end
