* Z:\home\mainster\CODES_local\LTSpice_projects\h_brucke.asc
M1 N006 N008 0 0 IRFH7936
M2 N006 N002 N001 N001 IRF7404
V1 s 0 PULSE(0 {Vh} 0 1n 1n {0.9/(2*f0)} {1/(f0)}) Rser=2
R1 N001 N002 470
R2 N008 0 1.5k
R3 N012 0 4.7k
R4 0 N012 68k
Q1 N010 N012 0 0 NPN
M3 N007 N009 0 0 IRFH7936
M4 N007 N003 N001 N001 IRF7404
R5 N001 N003 470
R7 N013 0 4.7k
R8 0 N013 68k
Q2 N011 N013 0 0 NPN
R10 N007 N006 100
XU1 N001 vdc_single V=12V
B1 sd 0 V=delay(V(s),{1/(2*f0)})
V2 s2 0 PULSE({Vh} 0 0 1n 1n {0.9/(2*f0)} {1/(f0)}) Rser=2
D2 N009 N005 1N750
D1 N005 N003 1N750
D3 N004 N002 1N750
D4 N008 N004 1N750
R6 N009 0 1.5k
R9 sd N005 100
R11 s N004 100
C1 N009 0 {cd}
C3 N001 N003 {cd}
C4 N001 N002 {cd}
C5 N008 0 {cd}
.model D D
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.mos
.tran {10/f0}
.param f0=1k
+ Vh = 12V
+ Cd = 500n
.lib EIT_sub/vdc_single.sub
.backanno
.end
